US04057556
A solution of 2-methoxy-7-phenoxy-2,4,6-cycloheptatrien-1-one (2.0 g, described above) in methanol (30 ml) is cooled to -25° C and saturated with gaseous ammonia. The mixture is heated in a pressure bottle at 80° C for 4 hours and cooled to -70° C. The bottle is opened and the solvent is removed under reduced pressure. The residue is crystallized from ethyl acetate to give 2-amino-7-phenoxy-2,4,6-cycloheptatrien-1-one.

reactant | 2-methoxy-7-phenoxy-2,4,6-cycloheptatrien-1-one | 2.0 g | COC=1C(C(=CC=CC1)OC1=CC=CC=C1)=O | C14H12O3
reactant | ammonia | N | H3N
solvent | methanol | 30 ml | CO | CH4O
product | 2-amino-7-phenoxy-2,4,6-cycloheptatrien-1-one | NC=1C(C(=CC=CC1)OC1=CC=CC=C1)=O | C13H11NO2
